US06099593
150 cc of 35% hydrochloric acid were introduced into a 500 cc three-necked flask equipped with a magnetic stirrer, a thermometer and a condenser, and 47.5 g of 3-amino-5-methylpyrazole dissolved in 100 cc of water were added dropwise. The temperature rose to 60° C. 47.5 g of 3-ethoxyacrylonitrile were then added and the reaction was refluxed for 1 h. The reaction medium was cooled and concentrated under reduced pressure. 50 cc of acetone were added and the precipitate obtained was filtered off. It was rinsed with diisopropyl ether. After drying under vacuum over phosphorus pentoxide, 78.7 g of 2-methylpyrazolo[1,5-a]pyrimidin-7-ylamine hydrochloride were obtained in the form of white crystals. (Yield=83%).

reactant | hydrochloric acid | 150 cc | Cl | ClH
reactant | 3-amino-5-methylpyrazole | 47.5 g | NC1=NNC(=C1)C | C4H7N3
reactant | 3-ethoxyacrylonitrile | 47.5 g | C(C)OC=CC#N | C5H7NO
solvent | water | 100 cc | O | H2O
product | 2-methylpyrazolo[1,5-a]pyrimidin-7-ylamine hydrochloride | 78.7 g, Yield=83% | Cl.CC1=NN2C(N=CC=C2N)=C1 | InChI=1S/C7H8N4.ClH/c1-5-4-7-9-3-2-6(8)11(7)10-5;/h2-4H,8H2,1H3;1H
